US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide
To a solution of 2-hydroxy-2-methylpropanoic acid (Aldrich) (20.84 mg, 0.200 mmol) in THF (2 mL) was added dropwise at room temperature 1-chloro-N,N,2-trimethyl-1-propen-1-amine (0.026 mL, 0.200 mmol). The resulting mixture was stirred at room temperature for 30 min. To this were successively added N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride (for a preparation see Intermediate 4) (50 mg, 0.100 mmol) and DIPEA (0.052 mL, 0.300 mmol). After 1 hour of stirring at room temperature LCMS showed product as the major peak. The reaction mixture was concentrated under a stream of nitrogen in the Radleys blowdown apparatus, the residue was dissolved in 1:1 MeOH:DMSO (1 mL) and purified by MDAP on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier. The solvent was removed under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound (48.5 mg, 88%). LCMS (System A) RT=1.05 min, ES+ve m/z 549/551 (M+H)+.

reactant | 2-hydroxy-2-methylpropanoic acid | 0.200 mmol, 20.84 mg | OC(C(=O)O)(C)C | C4H8O3
reactant | 1-chloro-N,N,2-trimethyl-1-propen-1-amine | 0.200 mmol, 0.026 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | DIPEA | 0.300 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]-2-hydroxy-2-methylpropanamide | 48.5 mg, 88% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC=1C=C(C=CC1)CNC(C(C)(C)O)=O | C24H25ClN4O5S2
